US07304081B2
Sodium carbonate (42.4 mg, 0.400 mmol) in water (0.20 mL) was added to a mixture of ethyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate (45.1 mg, 0.200 mmol), Phenylboronic acid (24.4 mg, 0.200 mmol) and tetrakis(triphenylphosphine)palladium(0) (7.15 mg) in toluene (200.0 μL) and ethanol (100.0 μL). The resulting mixture was irradiated by microwave at 120° C. for 15 minutes. Ethyl acetate (5 mL) was then added to the mixture. The resulting mixture was washed with water followed by brine. The organic layer was dried over Na2SO4, then filtered, and then concentrated under reduced pressure. The residue was purified by flash chromatography with ethyl acetate/heaxane to give ethyl 1-(6-phenylpyridin-3-yl)cyclopropanecarboxylate.

reactant | Sodium carbonate | 0.400 mmol, 42.4 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate | 0.200 mmol, 45.1 mg | ClC1=CC=C(C=N1)C1(CC1)C(=O)OCC | C11H12ClNO2
reactant | Phenylboronic acid | 0.200 mmol, 24.4 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 0.20 mL | O | H2O
solvent | toluene | 200.0 μL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 100.0 μL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 7.15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 1-(6-phenylpyridin-3-yl)cyclopropanecarboxylate | C1(=CC=CC=C1)C1=CC=C(C=N1)C1(CC1)C(=O)OCC | C17H17NO2
